US09315507B2
3-(4-(Adamantan-1-yl)phenoxy)-N-(2-(dimethylamino)ethyl)propanamide (I-10)
The title compound was prepared from 3-(4-(adamantan-1-yl)phenoxy)propanoic acid (0.2 g, 0.66 mmol) and N,N-dimethylethane-1,2-diamine (0.058 g, 0.66 mmol) according to the example 1, which was given 3-(4-(adamantan-1-yl)phenoxy)-N-(2-(dimethylamino)ethyl)propanamide as a white solid (0.225 g, 91.4% yield).

reactant | 3-(4-(adamantan-1-yl)phenoxy)propanoic acid | 0.66 mmol, 0.2 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCCC(=O)O)C=C2 | C19H24O3
reactant | N,N-dimethylethane-1,2-diamine | 0.66 mmol, 0.058 g | CN(CCN)C | C4H12N2
product | 3-(4-(adamantan-1-yl)phenoxy)-N-(2-(dimethylamino)ethyl)propanamide | 0.225 g, 91.4% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCCC(=O)NCCN(C)C)C=C2 | C23H34N2O2
